US05286725
4-tert-butylcyclohexancarboxilic acid (2.76 g, 0.015 mol), cis/trans mixture 1:1, in anhydrous THF (10 cm3) was added dropwise to a stirred suspension of LiAlH4 (1.14 g, 0.030 mol) in anhydrous THF (10 cm3), under atmosphere of nitrogen. After 2 h at room temperature the solution was thinned with ether and, under stirring, HCl (10% b.w.) was slowly added dropwise till acidic pH. The two layer were separated and the organic one was washed, then added with Na2SO4 and thoroughly dried under reduced pressure. The residue (2.5 g) was dissolved in anhydrous ether (10 cm3), cooled to -70° C., to which was added dropwise and with stirring PBr3 (1.5 g, 0.055 mol). After the addition was complete the mixture was stirred under reflux to room temperature for 2 h; ether was added and then some satured NaHCO3 solution. After the two layers were separated, Na2SO4 was added to the organic phase which was then dried under reduced pressure. Chromatography on silica gel eluting with hexane gave 1.1 g of 4-tert-butyl-cyclohex-2-enylmethyl bromide (trans isomer) out of 2.4 g of residue. Such product was employed in the example 4.

reactant | 4-tert-butylcyclohexancarboxilic acid | 0.015 mol, 2.76 g | C(C)(C)(C)C1CCC(CC1)C(=O)O | C11H20O2
reactant | LiAlH4 | 0.030 mol, 1.14 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | HCl | Cl | ClH
reactant | PBr3 | 0.055 mol, 1.5 g | P(Br)(Br)Br | Br3P
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 10 cm3 | C1CCOC1 | C4H8O
solvent | THF | 10 cm3 | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 4-tert-butyl-cyclohex-2-enylmethyl bromide | 1.1 g | C(C)(C)(C)C1C=CC(CC1)CBr | C11H19Br
